### PR TITLE
feat: more lemmas

### PR DESCRIPTION
**Pull request by vlad902**

### CODE REVIEW

File: Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Basic.lean [hunk 1]
```diff
@@ -137,6 +138,19 @@ lemma sup_inf_submodule_span_of_disjoint {C : PointedCone R M} {S : Submodule R
...
+  affineSpan_eq_span_iff_zero_mem.mpr <| subset_affineSpan R _ C.zero_mem
+
+@[simp]
+theorem affineSpan_hull_eq_span {K : Set M} :
+    affineSpan R (hull R K : Set M) = span R K := by
+  rw [affineSpan_eq_span, span_hull_eq_submodule_span]
+
+theorem affineSpan_hull_eq_affineSpan_insert {K : Set M} :
+    affineSpan R (hull R K : Set M) = affineSpan R (insert 0 K) := by
+  simp
```
Comment (YaelDillies) [inline Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Basic.lean]: I don't think we want this lemma since the RHS simplifies to `span R K`

File: Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Basic.lean [hunk 2]
```diff
@@ -137,6 +138,19 @@ lemma sup_inf_submodule_span_of_disjoint {C : PointedCone R M} {S : Submodule R
   · rw [inf_comm, ← coe_inf, disjoint_iff.mp hS]; simp
   · exact Submodule.subset_span
 
+theorem affineSpan_eq_span (C : PointedCone R M) :
+    affineSpan R (C : Set M) = span R (C : Set M):=
+  affineSpan_eq_span_iff_zero_mem.mpr <| subset_affineSpan R _ C.zero_mem
+
+@[simp]
+theorem affineSpan_hull_eq_span {K : Set M} :
+    affineSpan R (hull R K : Set M) = span R K := by
```
Comment (YaelDillies) [inline Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Basic.lean]:
```suggestion
theorem affineSpan_hull (K : Set M) :
    affineSpan R (hull R K : Set M) = span R K := by
```

File: Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Basic.lean [hunk 3]
```diff
@@ -137,6 +138,19 @@ lemma sup_inf_submodule_span_of_disjoint {C : PointedCone R M} {S : Submodule R
   · rw [inf_comm, ← coe_inf, disjoint_iff.mp hS]; simp
   · exact Submodule.subset_span
 
+theorem affineSpan_eq_span (C : PointedCone R M) :
+    affineSpan R (C : Set M) = span R (C : Set M):=
```
Comment (YaelDillies) [inline Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Basic.lean]: Should this be simp?

Comment (YaelDillies) [inline Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Basic.lean]:
```suggestion
theorem affineSpan_eq_span (C : PointedCone R M) :
    affineSpan R (C : Set M) = span R (C : Set M) :=
```

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Defs.lean [hunk 4]
```diff
@@ -22,6 +22,16 @@ variable {A : Type*} [AddTorsor V A]
 
 lemma spanPoints_empty : spanPoints R (∅ : Set A) = ∅ := by simp [spanPoints]
 
+theorem _root_.affineSpan_insert_congr {s t : Set A} (x : A)
+    (h : affineSpan R s = affineSpan R t) :
+    affineSpan R (insert x s) = affineSpan R (insert x t) := by
+  rw [← affineSpan_insert_affineSpan, h, affineSpan_insert_affineSpan]
+
+theorem _root_.vectorSpan_insert_congr {s t : Set A} (x : A)
+    (h : affineSpan R s = affineSpan R t) :
```
Comment (YaelDillies) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Defs.lean]: These lemmas are a bit weird, but hmm yes how strongly do you need them?

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Basic.lean [hunk 5]
```diff
@@ -97,6 +97,21 @@ lemma weight_one (a₀ : A) : hom.weight (hom.ofPoint a₀) = 1 := by
   convert Set.ext_iff.mp hom.ofPoint_range_eq_preimage_weight_one (hom.ofPoint a₀)
   simp [exists_apply_eq_apply, Set.mem_preimage, Set.mem_singleton_iff, true_iff]
 
+@[simp]
+theorem coe_affineSpan_range_ofPoint :
+    (affineSpan R (Set.range hom.ofPoint) : Set W) = Set.range hom.ofPoint := by
+  simp [← Set.image_univ, ← AffineSubspace.map_span]
```
Comment (YaelDillies) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Basic.lean]: Can you add a `mem_` lemma too?

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Basic.lean [hunk 6]
```diff
@@ -97,6 +97,21 @@ lemma weight_one (a₀ : A) : hom.weight (hom.ofPoint a₀) = 1 := by
...
+
+theorem weight_one_of_mem_affineSpan_ofPoint {x : W}
+    (hx : x ∈ affineSpan R (Set.range hom.ofPoint)) : hom.weight x = 1 := by
```
Comment (YaelDillies) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Basic.lean]: ... then you wouldn't need this lemma

File: Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Basic.lean (hunk 3 above)
Comment (vlad902) [reply Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Basic.lean]: I think that makes sense, done.

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Defs.lean (hunk 4 above)
Comment (vlad902) [reply Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Defs.lean]: I only use them in one place and I could inline them, but that proof is already a bit long. I don't need both versions though, instead I could just only keep the affineSpan one?

File: Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Basic.lean (hunk 1 above)
Comment (vlad902) [reply Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Basic.lean]: Ah yes, I was using it for a rewrite but now its only two rewrites combined so I can just inline that.

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Defs.lean (hunk 4 above)
Comment (YaelDillies) [reply Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Defs.lean]: I don't see any use in this PR. Am I blind or are you PRing pre-emptively? If the latter, then maybe hold off PRing/inlining these, and we can postpone this discussion to the PR where you actually use them

Comment (vlad902) [reply Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Defs.lean]: yes, it's pre-emptive. I'll remove it for now.

**Review by YaelDillies — APPROVED** [review]
LGTM, @martinwintermath ?

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Basic.lean [hunk 7]
```diff
@@ -97,6 +97,21 @@ lemma weight_one (a₀ : A) : hom.weight (hom.ofPoint a₀) = 1 := by
   convert Set.ext_iff.mp hom.ofPoint_range_eq_preimage_weight_one (hom.ofPoint a₀)
   simp [exists_apply_eq_apply, Set.mem_preimage, Set.mem_singleton_iff, true_iff]
 
+@[simp]
+theorem coe_affineSpan_range_ofPoint :
+    affineSpan R (Set.range hom.ofPoint) = Set.range hom.ofPoint := by
+  simp [← Set.image_univ, ← AffineSubspace.map_span]
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Basic.lean]: I am confused about this lemma. The reason I imagine one might need it is because there is no `AffineMap.range`. Adding the latter seems to be the real fix.

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean [hunk 8]
```diff
@@ -0,0 +1,57 @@
...
+  refine affineSpan_subset_span.antisymm ?_
+  rw [← vectorSpan_add_self, vectorSpan_def]
+  refine Subset.trans ?_ <| subset_add_left _ <| mem_insert ..
+  gcongr
+  exact subset_sub_left <| mem_insert ..
+
+theorem affineSpan_eq_span_iff_zero_mem {s : Set V} :
+    affineSpan k s = Submodule.span k s ↔ 0 ∈ affineSpan k s := by
+  refine ⟨by simp +contextual, fun h ↦ ?_⟩
+  rw [← affineSpan_insert_eq_affineSpan _ h, affineSpan_insert_zero']
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean:73]: I imagine a useful second variant of this takes `0 ∈ affineSpan k s` as a hypothesis and states `affineSpan k s = Submodule.span k s`, and maybe is a simp lemma?

Comment (vlad902) [reply Polyhedral/Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean:73]: I thought this was a good idea and added this as a simp lemma to https://github.com/leanprover-community/mathlib4/pull/43582 which then caused downstream breakage, which reminded me that this is actually not a good idea because there is an induced coercion in this lemma on the RHS. (Submodule -> AffineSubspace), I will keep it as an additional lemma though and mark the coercion explicitly in the statement so that it's clear for future readers.

Comment (vlad902) [reply Polyhedral/Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean:73]: I could be convinced it's still a good idea as a simp lemma as the downstream breakage was fairly mild, but I don't love introducing coercions where none existed previously.

Comment (martinwintermath) [reply Polyhedral/Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean:73]: Oh I see. I think this convinces me that this should not be a simp lemma. But adding

```lean4
alias ⟨_, affineSpan_eq_span_of_zero_mem⟩ := affineSpan_eq_span_iff_zero_mem
```

still sounds good.

**Comment by martinwintermath** [comment]
While you are at it: can you add features for turning affine subspaces into submodules?:
- a def `Submodule.ofAffineSubspace` which assumes membership of zero
- a corresponding lift instance

**Comment by vlad902** [comment]
> While you are at it: can you add features for turning affine subspaces into submodules?:
> 
> * a def `Submodule.ofAffineSubspace` which assumes membership of zero
> * a corresponding lift instance

Done, here and upstream in the mathlib PR.

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Basic.lean (hunk 7 above)
Comment (vlad902) [reply Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Basic.lean]: This is now `affineSpan_range_eq_range`

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean [hunk 9]
```diff
@@ -45,6 +45,51 @@ theorem mem_range (f : P₁ →ᵃ[k] P₂) (x : P₂) : x ∈ f.range ↔ ∃ (
...
+    comap f p ≤ comap f p' ↔ p ≤ p' :=
+  ⟨fun H ↦ by rwa [SetLike.le_def, (range_eq_top.mp hf).forall], comap_mono⟩
+
+theorem comap_injective {f : P₁ →ᵃ[k] P₂} (hf : range f = ⊤) : Function.Injective (comap f) :=
+  fun _ _ h ↦ le_antisymm ((comap_le_comap_iff hf).mp (le_of_eq h))
+    ((comap_le_comap_iff hf).mp (ge_of_eq h))
+
+@[simp]
+theorem map_top (f : P₁ →ᵃ[k] P₂) : map f ⊤ = range f :=
+  (range_eq_map f).symm
```
Comment (vlad902) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean:87]: This is all just basic API directly copy-and-paste'd from `LinearMap`

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean [hunk 10]
```diff
@@ -45,6 +45,51 @@ theorem mem_range (f : P₁ →ᵃ[k] P₂) (x : P₂) : x ∈ f.range ↔ ∃ (
...
+
+@[simp]
```
Comment (vlad902) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean:89]: This is the one new lemma.

**Review by YaelDillies — APPROVED** [review]

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Basic.lean [hunk 11]
```diff
@@ -97,6 +97,17 @@ lemma weight_one (a₀ : A) : hom.weight (hom.ofPoint a₀) = 1 := by
   convert Set.ext_iff.mp hom.ofPoint_range_eq_preimage_weight_one (hom.ofPoint a₀)
   simp [exists_apply_eq_apply, Set.mem_preimage, Set.mem_singleton_iff, true_iff]
 
+theorem mem_range_ofPoint_iff (x : W) :
+    x ∈ hom.ofPoint.range ↔ hom.weight x = 1 := by
+  refine ⟨?_, fun h ↦ Eq.mpr (congrFun hom.ofPoint_range_eq_preimage_weight_one x) h⟩
+  rintro ⟨y, hy⟩
+  rw [← hy, weight_one]
+
+theorem zero_notMem_affineSpan [Nontrivial R] {s : Set W} (hs : s ⊆ hom.ofPoint.range) :
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Basic.lean]: Maybe more directly: 0 is not in hom.ofPoint.range.
